US07825128B2
(RS)—S-{2-bromo-4-[(4-{[(R)-1-(hydroxymethyl)propyl]amino}-5-(2-thienyl)-pyrimidine-2-yl)amino]phenyl}-S-methylsulfoximide
In the reaction of (RS)—S-{2-bromo-4-[(4-{[(R)-1-(hydroxymethyl)propyl]amino}-5-(2-thienyl)pyrimidine-2-yl)amino]phenyl}-N-(ethoxycarbonyl)-S-methyl-sulfoximide (130 mg, 0.23 mmol) with sodium ethylate (22 mg, 0.31 mmol) according to procedure 14, the desired product is obtained in 64% yield (73 mg) after chromatographic purification (silica gel, dichloromethane/ethanol (9/1)).

reactant | (RS)—S-{2-bromo-4-[(4-{[(R)-1-(hydroxymethyl)propyl]amino}-5-(2-thienyl)pyrimidine-2-yl)amino]phenyl}-N-(ethoxycarbonyl)-S-methyl-sulfoximide | 0.23 mmol, 130 mg | BrC1=C(C=CC(=C1)NC1=NC=C(C(=N1)N[C@H](CC)CO)C=1SC=CC1)S(=O)(=NC(=O)OCC)C | C22H26BrN5O4S2
reactant | sodium ethylate | 0.31 mmol, 22 mg | CC[O-].[Na+]
product | (RS)—S-{2-bromo-4-[(4-{[(R)-1-(hydroxymethyl)propyl]amino}-5-(2-thienyl)-pyrimidine-2-yl)amino]phenyl}-S-methylsulfoximide | 64% yield | BrC1=C(C=CC(=C1)NC1=NC=C(C(=N1)N[C@H](CC)CO)C=1SC=CC1)S(=O)(=N)C | C19H22BrN5O2S2
